US07265120B2
A suspension of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbonitrile (143 mg) in 25% hydrogen bromide solution of AcOH (1.5 ml) was stirred at 25-30° C. for 2 hours. The reaction mixture was poured into a mixture of Na2CO3 (2 g) and ice-water (30 g), extracted with CHCl3, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarboxamide as a solid (136 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbonitrile | 143 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)C#N | C18H16N6O
reactant | AcOH | 1.5 ml | CC(=O)O | C2H4O2
reactant | Na2CO3 | 2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | n-hexane | CCCCCC | C6H14
solvent | hydrogen bromide | Br | BrH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarboxamide | 136 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C18H18N6O2
